US04374248
3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-{2-[3-isothiazolylmethylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide
When a methanol suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide is reacted with one equivalent of 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine according to the procedure described in Example 17, Step A, and the resultant 3-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide is treated with one equivalent of 2-[3-isothiazolylmethylthio]ethylamine, the title compound is produced.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | one equivalent | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 3-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1,1-dioxide | CN(C)CC1=CC=C(O1)CSCCNC1=NS(N=C1OC)(=O)=O | C13H20N4O4S2
reactant | 2-[3-isothiazolylmethylthio]ethylamine | one equivalent | S1N=C(C=C1)CSCCN | C6H10N2S2
solvent | methanol | CO | CH4O
product | 3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-{2-[3-isothiazolylmethylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide | CN(C)CC1=CC=C(O1)CSCCNC1=NS(N=C1NCCSCC1=NSC=C1)(=O)=O | C18H26N6O3S4
